US07101898B2
Sodium triacetoxyborohydride (35.7 g, 0.168 mol) was added to a mixture of crude (S)-2-formylpyrrolidine-1-carboxylic acid tert-butyl ester (11.2 g, 0.056 mol), pyrrolidine (5.16 ml, 0.062 mol) and mol sieves (10 g) in dichloromethane (100 ml). Acetic acid (6.42 g, 0.112 mol) was added. The reaction mixture was stirred for 16 hours at room temperature. The precipitation was removed by filtration. The filtrate was diluted with a 1 N aqueous solution of sodium hydroxide (100 ml) and tert-butyl methyl ether (100 ml). The phases were separated. The aqueous phase was extracted with tert-butyl methyl ether (3×80 ml). The combined organic layers were dried over magnesium sulphate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (90 g), using ethyl acetate/heptane/triethylamine (1:1, 5%) as eluent, to give 9.23 g of (S)-2-((pyrrolidin-1-yl)methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester.

reactant | Sodium triacetoxyborohydride | 0.168 mol, 35.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (S)-2-formylpyrrolidine-1-carboxylic acid tert-butyl ester | 0.056 mol, 11.2 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C=O | C10H17NO3
reactant | pyrrolidine | 0.062 mol, 5.16 ml | N1CCCC1 | C4H9N
reactant | Acetic acid | 0.112 mol, 6.42 g | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (S)-2-((pyrrolidin-1-yl)methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 9.23 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CN1CCCC1 | C14H26N2O2
